US07645755B2
e) 1-[4-(4-Amino-3-bromo-phenyl)-piperidin-1-yl]-ethanone
A solution of 1-[4-(4-amino-phenyl)-piperidin-1-yl]-ethanone (as prepared in the previous step, 0.36 g, 1.66 mmol) in CH2Cl2 (10 mL) was cooled to −78° C. and treated with NBS (0.28 g, 1.58 mmol) as a suspension in CH2Cl2 (4 mL). The reaction was allowed to warm to room temperature and stir for 30 min. The reaction was diluted with CH2Cl2 and washed with saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and concentrated in vacuo. The crude material was used directly in the next reaction. LC-MS (ESI, m/z): Calcd. for C13H17BrN2O 297.1 (M+H), found 297.1.

reactant | 1-[4-(4-amino-phenyl)-piperidin-1-yl]-ethanone | NC1=CC=C(C=C1)C1CCN(CC1)C(C)=O | C13H18N2O
reactant | NBS | 1.58 mmol, 0.28 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-Amino-3-bromo-phenyl)-piperidin-1-yl]-ethanone | NC1=C(C=C(C=C1)C1CCN(CC1)C(C)=O)Br | C13H17BrN2O
